US08461328B2
A mixture of 1-(4-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene (75.0 mg, 0.29 mmol) and acrylonitrile (95.5 μL, 1.45 mmol) in ethanol was stirred at 80° C. for 5 hours. The solvent was evaporated under vacuum and the residue purified by column chromatography on silica gel (gradient: 0 to 4.5% [2M NH3 in methanol] in DCM) to afford 64.0 mg (71%) of 3-[4-methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidin-1-yl]-propionitrile. LCMS (Method A, ESI): RT=1.91 min, m+H=310.3; 1H NMR (400 MHz, DMSO) δ: 12.41 (s, 1H), 9.04 (s, 1H), 7.59 (t, 1H), 7.08 (m, 1H), 2.85 (m, 2H), 2.66 (m, 4H), 2.58 (m, 2H), 2.49 (m, 2H), 2.11 (m, 2H), 1.85 (s, 3H).

reactant | 1-(4-methyl-piperidin-4-yl)-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene | 0.29 mmol, 75.0 mg | CC1(CCNCC1)N1N=NC2=CN=C3NC=CC3=C12 | C13H16N6
reactant | acrylonitrile | 1.45 mmol, 95.5 μL | C(C=C)#N | C3H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-methyl-4-(6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-piperidin-1-yl]-propionitrile | 64.0 mg, 71% | CC1(CCN(CC1)CCC#N)N1N=NC2=CN=C3NC=CC3=C12 | C16H19N7
